US06316482B1
To a solution of ethyl 3-amino-2-hydroxybenzoate (500 mg), sodium hydrogen carbonate (927 mg) and benzyltributylammonium bromide (983 mg) in chloroform (10 ml) was added dropwise chloroacetyl chloride (374 mg) in chloroform (3 ml) under ice bath cooling. The reaction mixture was stirred at ambient temperature for 1 hour and at 60° C. for 2 hours. To the reaction mixture was added dropwise chloroacetyl chloride (312 mg) in chloroform (3 ml) under ice bath cooling and stirred at 60° C. for 2 hours. After the reaction mixture was concentrated in vacuo, the residue was diluted with chloroform and saturated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo to give ethyl 2H-1,4-benzoxazin-3-one-8-carboxylate (460 mg).

reactant | ethyl 3-amino-2-hydroxybenzoate | 500 mg | NC=1C(=C(C(=O)OCC)C=CC1)O | C9H11NO3
reactant | sodium hydrogen carbonate | 927 mg | C(O)([O-])=O.[Na+]
reactant | chloroacetyl chloride | 374 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 312 mg | ClCC(=O)Cl | C2H2Cl2O
catalyst | benzyltributylammonium bromide | 983 mg | [Br-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2H-1,4-benzoxazin-3-one-8-carboxylate | 460 mg | O1CC(NC2=C1C(=CC=C2)C(=O)OCC)=O | C11H11NO4
